US05488188
In Scheme A, step 1, 4-(p-fluorophenyl)butyric acid is contacted with isobutylene to give t-butyl 4-(p-fluorophenyl)butyrate.

reactant | 4-(p-fluorophenyl)butyric acid | FC1=CC=C(C=C1)CCCC(=O)O | C10H11FO2
reactant | isobutylene | CC(C)=C | C4H8
product | t-butyl 4-(p-fluorophenyl)butyrate | FC1=CC=C(C=C1)CCCC(=O)OC(C)(C)C | C14H19FO2
